Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / nitrofurantoin / Augmentin
 
Attending: ___.
 
Chief Complaint:
Decreased oral intake
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o female with a hx of dementia & hypertension who presents 
a transfer from ___ for acute hypoxic 
respiratory failure and afib w/ RVR.  
 The patient was noted to be progressively more dyspneic and 
cough since yesterday morning. Per OSH reports, the patient has 
a history of frequent pulmonary infections and had been coughing 
recently. No recent travel.  
 The family took the patient to ___, where she was noted 
to be in afib w/ RVR (HR 130s) with hypotension requiring 
levophed and acute hypoxic respiratory failure requiring BIPAP. 
Work-up showed: influenza A positive, Cr 1.1, WBC 18.6, H/H 
11.4/37.5, lactate 5.3 -> 2.4, troponin 0.03, BNP 30,000, vbg 
7.___. She was given digoxin, aztreonam, azithromycin, 
duoneb, 1L NS and continued on levophed during transfer.  

 
Past Medical History:
Hypertension
Benign positional vertigo
___ disease
Resting tremor
Osteoarthritis
 
Social History:
___
Family History:
Father died of stroke at ___.  Mother died at age ___ of uncertain 
causes, possibly pneumonia.

 
Physical Exam:
ADMISSION EXAM:
===============
VITALS: ___ 1334 Temp: 98.5 AdultAxillary BP: 117/53 HR: 82
RR: 18 O2 sat: 95% O2 delivery: Ra 
GENERAL: Frail, elderly woman, extremely hard of hearing, laying
in bed in NAD
HEENT: AT/NC, EOMI, anicteric sclera, pink conjunctiva, dry MM
HEART: Regular rate, irregularly irregular rhythm, normal S1/S2,
no murmurs, gallops, or rubs
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
ABDOMEN: Soft, diffusely tender to palpation, active bowel
sounds, no rebound/guarding 
EXTREMITIES: No cyanosis, clubbing or edema
NEURO: Alert, speaks in short sentences, cannot assess
orientation as patient is hard of hearing, severe cogwheel 
rigidity 
SKIN: Warm and well-perfused 

DISCHARGE EXAM:
===============
VITALS: ___ 0816 Temp: 98.0 AdultAxillary BP: 151/79 L 
Lying
HR: 74 RR: 15 O2 sat: 96% O2 delivery: Ra 
GENERAL: Elderly woman, laying in bed with eyes closed,
cachectic, in NAD   
HEENT: AT/NC, crusting around eyes, unable to open eyes to 
assess
EOM or pupillary reflex
HEART: RRR, normal S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: Soft, active bowel sounds, nondistended, nontender in
all quadrants
EXTREMITIES: No cyanosis, clubbing, or edema  
NEURO: Lethargic but arousable to voice, unable to assess
orientation as patient was non-verbal, upper extremities with
severe cogwheel rigidity 
SKIN: Warm and well perfused, no excoriations or lesions, no
rashes  
 
Pertinent Results:
ADMISSION LABS:
===============
___ 03:47AM   PLT COUNT-284
___ 03:47AM   NEUTS-57.9 ___ MONOS-7.7 EOS-3.2 
BASOS-0.6 IM ___ AbsNeut-4.50 AbsLymp-2.35 AbsMono-0.60 
AbsEos-0.25 AbsBaso-0.05
___ 03:47AM   WBC-7.8 RBC-4.45 HGB-12.9 HCT-40.3 MCV-91# 
MCH-29.0 MCHC-32.0 RDW-13.6 RDWSD-45.4
___ 03:47AM   TSH-2.2
___ 03:47AM   VIT B12-348
___ 03:47AM   CALCIUM-8.4 PHOSPHATE-3.7 MAGNESIUM-2.2
___ 03:47AM   estGFR-Using this
___ 03:47AM   GLUCOSE-83 UREA N-21* CREAT-0.5 SODIUM-146 
POTASSIUM-4.0 CHLORIDE-108 TOTAL CO2-23 ANION GAP-15
___ 03:56AM   LACTATE-1.1
___ 03:56AM   ___ COMMENTS-GREEN TOP 

MICROBIOLOGY:
=============
___ Blood culture: Pending

IMAGING/DIAGNOSTICS:
====================
___ CT HEAD:
There is no evidence of acute intracranial process or hemorrhage

DISCHARGE LABS:
===============
___ 06:00AM BLOOD WBC-9.3 RBC-4.68 Hgb-13.4 Hct-42.3 MCV-90 
MCH-28.6 MCHC-31.7* RDW-13.2 RDWSD-43.8 Plt ___
___ 06:00AM BLOOD Plt ___
___ 06:00AM BLOOD Glucose-57* UreaN-16 Creat-0.5 Na-145 
K-4.2 Cl-106 HCO3-20* AnGap-19*
___ 06:00AM BLOOD Calcium-8.4 Phos-3.6 Mg-2.1
 
Brief Hospital Course:
Ms. ___ is an ___ with a history of ___ who comes in 
with poor PO intake and sore throat since ___.

ACTIVE ISSUES:
===============
# Failure to thrive 
# Reduced oral intake 
# Lethargy 
# Goals of care

Patient presented with two days of reduced oral intake and 
increasing lethargy with sore throat, per patient's care taker. 
She was initially seen at OSH where an infectious work-up was 
done and came back negative.  She was reportedly transferred to 
___ for evaluation for feeding tube. Upon arrival to ___, 
patient's care taker and family members reported that they did 
not believe a feeding tube was within the patient's goals of 
care. Additionally, it was communicated to the family (son and 
daughter) that tube feeding does not increase quality of life, 
prevent aspiration, or improve malnutrition or it's sequelae. 
Regarding her lethargy, per her care taker, she was roughly at 
baseline upon admission to ___. A work-up was sent, including 
B12, TSH, and electrolytes, all of which were within normal 
limits. 

Goals of care discussion was had with the family and the patient 
remains DNR/DNI.  Discussed at length the possible role and 
additional services that could be offered by involving a hospice 
agency in the future.

# Uncomplicated acute cystitis
Following discharge, urine culture eventually returned positive 
at OSH with ecoli.  Given allergies and other ___, 
___ be treated with cefpodoxime.  Script called in over phone.

CHRONINC/STABLE ISSUES:
========================
# Atypical ___ 
Continued home carbidopa-levodopa 

TRANSITIONAL ISSUES:
==================== 
[] Ensure that family has MOLST and HCP forms properly filled 
out.
[] Please consider decreasing patient's at home medications to 
those that are necessary as patient has had increasingly hard 
time swallowing some of the pills.

#CODE: DNR/DNI (confirmed on ___
#CONTACT: ___ 
Relationship: SON/HCP
Phone number: ___ 
#Other contacts: ___, ___ (cell), ___ 
(home)  
 cell ___  
 home ___  
 other ___  
___: ___ 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. amLODIPine 5 mg PO DAILY 
2. Carbidopa-Levodopa (___) ODT 1 TAB PO TID 
3. Tizanidine 2 mg PO QID:PRN spasms 
4. Atropine Sulfate Ophth 1% 1 DROP BOTH EYES TID:PRN excess 
tearing 
5. Acetaminophen 1000 mg PO BID 
6. Acetaminophen 1000 mg PO DAILY:PRN Pain - Mild 
7. Vitamin D Dose is Unknown  PO DAILY 
8. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
9. Saccharomyces boulardii UNKNOWN unknown oral Unknown 

 
Discharge Medications:
1.  Saccharomyces boulardii 250 mg oral BID  
2.  Vitamin D 1000 UNIT PO DAILY  
3.  Acetaminophen 1000 mg PO BID  
4.  Acetaminophen 1000 mg PO DAILY:PRN Pain - Mild  
5.  amLODIPine 5 mg PO DAILY  
6.  Atropine Sulfate Ophth 1% 1 DROP BOTH EYES TID:PRN excess 
tearing  
7.  Carbidopa-Levodopa (___) ODT 1 TAB PO TID  
8.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
9.  Tizanidine 2 mg PO QID:PRN spasms  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
- Failure to thrive
Secondary diagnosis:
- ___ disease
- Hypertension
 
Discharge Condition:
Mental status: Unable to assess as patient is mostly non-verbal 
Level of Consciousness: Lethargic but arousable.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Ms. ___,

WHY WERE YOU ADMITTED TO THE HOSPITAL? 
- You were admitted the hospital because you were not eating 
much and were more tired than usual. 

WHAT WAS DONE FOR YOU IN THE HOSPITAL? 
- You had a work-up done to ensure that you did not have an 
infection. The work-up was reassuring!

WHAT SHOULD YOU DO WHEN YOU GO HOME?
- You should continue taking your medications, as prescribed.
- You should follow up with your primary care doctor.

It was a pleasure taking care of you, and we wish you well!

Sincerely,
Your ___ Team

 
Followup Instructions:
___